US04385180
By substituting 5-chloro-2,3-dihydro-5-methoxy-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid in the procedure of Example 25, 1-[3-(benzoylthio)-2-methyl-1-oxopropyl]-5-chloro-2,3dihydro-1H-indole-2-carboxylic acid, dicyclohexylamine was obtained. The latter salt was then treated with 5% aqueous potassium hydrogen sulfate as in Example 15 to give the titled compound.

reactant | 5-chloro-2,3-dihydro-5-methoxy-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid | ClC1(CC=2CC(N(C2C=C1)C(C(=C)C)=O)C(=O)O)OC | C14H16ClNO4
reactant | 1-[3-(benzoylthio)-2-methyl-1-oxopropyl]-5-chloro-2,3dihydro-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)(=O)SCC(C(=O)N1C(CC2=CC(=CC=C12)Cl)C(=O)O)C | C20H18ClNO4S
product | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
